US09227976B2
4-chloro-3,5-diphenyl-1-(4-pyridylmethyl)pyrazolo[3,4-c]pyridazine (Compound IIo)
Compound IIo was synthesized from 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine and pyridin-4-ylmethanol following the general procedure for the Mitsunobu reaction as described above.

reactant | 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC=CC=C2 | C17H11ClN4
reactant | pyridin-4-ylmethanol | N1=CC=C(C=C1)CO | C6H7NO
product | 4-chloro-3,5-diphenyl-1-(4-pyridylmethyl)pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CC2=CC=NC=C2 | C23H16ClN5
